US07557244B2
To a solution of 4-benzyl-3-[2-(5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pent-4-enoyl]-oxazolidin-2-one (6.7 g, 11.2 mmol) in MeOH (150 mL) was added 10% Pd/C (670 mg, 10 w %). The black suspension was hydrogenated at 45-45 psi overnight. The mixture was filtered through celite and the solvent was removed in vacuo to obtain relatively pure 4-benzyl-3-[2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoyl]-oxazolidin-2-one (5.4 g, 93%).

reactant | 4-benzyl-3-[2-(5-benzyloxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pent-4-enoyl]-oxazolidin-2-one | 11.2 mmol, 6.7 g | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(CC(=C)C)C=1C=C(C=C(C1)OCC1=CC=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C36H32F3NO4
solvent | MeOH | 150 mL | CO | CH4O
catalyst | Pd/C | 670 mg | [Pd] | Pd
product | 4-benzyl-3-[2-(5-hydroxy-4′-trifluoromethyl-biphenyl-3-yl)-4-methyl-pentanoyl]-oxazolidin-2-one | 5.4 g, 93% | C(C1=CC=CC=C1)C1N(C(OC1)=O)C(C(CC(C)C)C=1C=C(C=C(C1)O)C1=CC=C(C=C1)C(F)(F)F)=O | C29H28F3NO4
